Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Codeine / Bactrim
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
Percutaneous liver biopsy
 
History of Present Illness:
Ms. ___ is a ___ with metastatic cancer of unknown primary 
(known lesions in lungs and liver) presenting with shortness of 
breath. She initially presented to ___ in ___ with abdominal 
pain and failure to thrive. Evaluation at that time included an 
abdominal CT scan that showed multiple lung and liver 
metastases. She has yet to undergo definite diagnosis with 
biopsy, and per recent oncology documentation seems disengaged 
with care.  
She was reportedly in her usual state of health until the 
evening prior to admission, when she developed acute on chronic 
shortness of breath while at rest. She reported midsternal chest 
ache associated with this shortness of breath. Pain is 
exacerbated by direct pressure; nothing seems to alleviate pain. 
She denied any pleuritic or exertional component to the chest 
pain or shortness of breath. She feels that symptoms are 
secondary to her "cancer" and "feels as if the cancer has 
spread". She reports stable, chronic nonproductive cough, which 
has been present over the preceding months.  
She was seen recently in the ED for evaluation of left greater 
than right lower extremity edema with lower extremity venous 
ultrasounds negative, without change in edema since since that 
visit. She denies associated fever, chills, sweats, PND, 
orthopnea, or positional component to pain. 
In the ED, initial vital signs were: 98.0 116 100/49 24 99% RA. 
Labs notable for leukocytosis to 17.9, hematocrit of 32, and 
lactate of 2.8. Urinalysis was positive, but with 19 epithelial 
cells. CTA was negative for central pulmonary embolus, focal 
consolidation, or pleural effusion, though did reveal 
innumerable pulmonary nodules, as well as enlarged liver with 
stable metastases. EKG was interpreted as sinus tachycardia and 
was overall consistent with prior. Ceftriaxone/azithromycin were 
initiated for possible pneumonia. Vital signs on  transfer were 
as follows: 97.9 107 100/60 22 100% RA. On arrival to the floor, 
she reports that shortness of breath has improved and that she 
is chest pain free.
 
Past Medical History:
Per OMR:
# metastatic cancer of unknown primary
# high grade SBO ___ s/p exploratory laparotomy, lysis of 
adhesions, and small bowel resection with enteroenterostomy 
# carcinoid
# hyperlipidemia
# vitamin B12 deficiency
# cervical DJD
# osteoarthritis 

s/p R lung resection in ___ at ___
s/p hysterectomy in ___
s/p R arm surgery

 
Social History:
___
Family History:
Per OMR:
Mother - Died of pancreatic cancer at age ___.  
Father - Died of ___ disease at age ___. 
 
Physical Exam:
On admission:
VS: 97.9 114/71 105 sinus 18 95%2L  
GENERAL: non-toxic appearing, speaking in full sentences  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM  
NECK: supple, no LAD, no JVD  
CHEST: mild reproducible pain on palp of midsternum; no palpable 
mass  
LUNGS: poor aeration but relatively CTA bilat, no r/rh/wh, resp 
unlabored, no accessory muscle use  
HEART: clear and audible heart sounds, tachycardiac but regular 
rhythm, sofy SEM, nl S1-S2  
ABDOMEN: normal bowel sounds, soft, mild tenderness to palp 
throughout and more pronounced in the RUQ, non-distended, no 
rebound or guarding, palpable liver edge  
EXTREMITIES: left > right 1+ pitting edema to mid shin, 2+ 
pulses radial and dp  
NEURO: awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact

At discharge:
VS - Tc 99.7, 116/59, 131, 18, 99% RA
GENERAL: obese, NAD, lying in bed comfortably, flat affect and 
poor eye contact
HEENT: NCAT, EOMI, mild scleral icterus, pink conjunctiva, MMM, 
poor dentition, mild palor of conjunctiva 
NECK: supple, no LAD  
CARDIAC: tachycardic but regular, S1/S2, no m/r/g
LUNG: CTAB in anterior fields, decreased breath sounds at right 
base, exam limited secondary to body habitus and mobility, no 
w/r/r, no accessory muscle use
ABDOMEN: obese, ND, +BS, no rebound/guarding, localized area of 
firmness in mid-upper abdomen and tender to palpation over this 
area 
EXTREMITIES: WWP, 2+ DP pulses bilaterally, 1+ pitting edema to 
torso bilateraly 
NEURO: no asterixis, moving all four extremities, minimal 
movement ___ to gravity but distal muscles 4+/5, good hand 
grip strength today
 
Pertinent Results:
On admission:
___ 12:50PM BLOOD WBC-17.9* RBC-3.69* Hgb-9.5* Hct-32.1* 
MCV-87 MCH-25.8* MCHC-29.7* RDW-19.1* Plt ___
___ 12:50PM BLOOD Neuts-82.8* Lymphs-11.7* Monos-4.4 
Eos-0.7 Baso-0.3
___ 12:50PM BLOOD ___ PTT-31.2 ___
___ 12:50PM BLOOD Glucose-97 UreaN-12 Creat-0.6 Na-140 
K-2.7* Cl-92* HCO3-31 AnGap-20
___ 12:50PM BLOOD ALT-17 AST-73* LD(___)-586* CK(CPK)-218* 
AlkPhos-340* TotBili-2.6* DirBili-1.8* IndBili-0.8
___ 12:50PM BLOOD CK-MB-1 cTropnT-<0.01
___ 12:50PM BLOOD Albumin-2.5* Mg-2.2
___ 12:50PM BLOOD Hapto-307*
___ 05:12PM BLOOD Lactate-2.8*

___ 06:00PM URINE Color-YELLOW Appear-Cloudy Sp ___
___ 06:00PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-10 Bilirub-SM  Urobiln-8* pH-6.0 Leuks-MOD
___ 06:00PM URINE RBC-0 WBC-66* Bacteri-FEW Yeast-NONE 
Epi-14
___ 06:00PM URINE CastHy-6*

At discharge:
___ 08:30AM BLOOD WBC-16.1* RBC-3.06* Hgb-8.3* Hct-29.2* 
MCV-95 MCH-27.1 MCHC-28.5* RDW-22.5* Plt ___
___ 08:30AM BLOOD Glucose-95 UreaN-7 Creat-0.3* Na-143 
K-3.5 Cl-110* HCO3-20* AnGap-17
___ 08:30AM BLOOD Calcium-8.3* Phos-2.4* Mg-1.9

Microbiology:
Blood x2 (___): No growth
Urine (___): No growth
Blood x2 (___): No growth

Pathology:
Liver biopsy (___):
Liver, core needle biopsy (A):
Adenocarcinoma, involving the liver (see note).
Note: Immunohistochemical stains are performed.  The tumor cells 
are positive for CK20 and CDX-2, and negative for CK7 and TTF-1. 
 These results are consistent with metastasis from a colorectal 
primary.

Imaging:
EKG (___):
Sinus tachycardia. Low voltage. Diffuse non-specific 
repolarization
abnormalities. Compared to the previous tracing of ___ 
repolarization
abnormalities are slightly more prominent.
___
___

Portable CXR (___):
Innumerable pulmonary metastases.  Possible mild pulmonary 
vascular
congestion.  Low lung volumes.

CTA (___):
1.  No central or segmental filling defect in the pulmonary 
arteries.
Evaluation is slightly limited due to suboptimal IV bolus. 
2.  Innumerable bilateral pulmonary nodules, simas seen on the 
prior CT study on ___, slightly increased.  No focal 
consolidation or pleural effusion.  
3.  Enlarged liver with multiple hypodense lesions, with 
suggestion of
increased burden of disease.

Right upper quadrant ultrasound (___):
Extensive diffuse hepatic metastatic disease.  No evidence of 
biliary duct
obstruction.

Portable CXR (___):
1. Low lung volumes and mild pulmonary vascular congestion is 
unchanged. 
2. New small right fissural pleural effusion.
3. No new focal opacities to suggest pneumonia.  

Noncontrast head CT (___):
No acute intracranial process.  No mass is identified.  MRI is 
more sensitive for evaluation of metastases.

Left hip XR (___):
No definite lytic lesion; however, an MRI can be performed to 
evaluate for an osseous lesion if indicated.

Portable abdomen (___):
Radiographs of the abdomen and pelvis demonstrate a 
nonobstructed
bowel gas pattern.  A relative paucity of bowel gas is present 
in the upper and mid abdomen, likely due to marked enlargement 
of the liver, displacing bowel loops.  Note that the upright 
view is technically suboptimal, and limits evaluation for free 
intraperitoneal air.  If free intraperitoneal air is suspected 
clinically, a left lateral decubitus view of the abdomen would 
be recommended.
 
Brief Hospital Course:
Ms. ___ is a ___ with metastatic cancer of unknown primary, 
including lesions in the liver and lungs, who initially 
presented with shortness of breath, likely due to worsening 
intrapulmonary tumor burden, and later underwent percutaneous 
liver biopsy with pathology consistent with metastatic colon 
cancer, prompting transfer to the oncology service and 
eventually discharged home with hospice.

Active Issues:
(1) Metastatic colon adenocarcinoma: CTA to exclude pulmonary 
embolus and right upper quadrant ultrasound on admission 
demonstrated progression of previously recognized metastatic 
cancer of unknown primary involving the liver and lungs, which 
had evaded diagnosis in the outpatient setting due to patient 
reluctance to engage with care. Percutaneous liver biopsy 
ultimately revealed primary colonic adenocarcinoma. Following 
discussion with her outpatient oncology providers, she was 
transferred to the inpatient oncology service for potential 
trial of FLOX. However, given the patient's very poor functional 
and nutritional status a goals of care discussion was held with 
the patient's HCP, ___ and it was decided to focus 
goals of care of comfort and symptom management and the patient 
was discharged home with home hospice. 

(2) Left thigh weakness/spinous tenderness: She was found to 
have focal left thigh weakness in association with diffuse 
spinous tenderness of unclear chronicity in the setting of 
preserved rectal tone without saddle anesthesia. She was noted 
to be incontinent of urine, but not feces. Given underlying 
malignancy, there was concern for bony metastases or cord 
involvement, with alternative consideration given to epidural 
abscess, prompting transient initiation of empiric antibiotic 
coverage with vancomycin/cefepim ___ to ___. Despite 
frequent persuasive efforts, she declined multiple attempts at 
lumbosacral MRI, including with lorazepam premedication, citing 
claustrophobia. Neuro exam was monitored and remained stable.

(3) Abdominal pain: She experienced intermittent abdominal pain 
and tenderness without peritoneal signs, concerning for 
obstruction in the setting of intraabdominal malignancy, 
particularly given episodes of emesis/hematemesis as below. 
While multiple KUBs were negative for obstruction, CT abdomen 
was planned to evaluate for alternative sources of 
intraabdominal pathology, but she declined on multiple 
occasions. Pain was controlled with acetaminophen and tramadol 
as needed.

(4) ? Hematemesis: She experienced a single episode of small 
volume emesis, reportedly approximately 100cc, streaked with 
blood and found to be guiac positive. Vital signs and hematocrit 
remained stable. IV pantoprazole was initiated for 
gastrointestinal prophylaxis, with subsequent discontinuation of 
PPI given no recurrence and questionable if first episode was 
true blood vs. red popsicle was eating at time. 
Esophagogastroduodenoscopy was deferred in the absence of 
recurrent hematemesis; no prior EGDs were available in OMR. 

(5) Altered mental status: She was intermittently altered 
throughout admission, never oriented to more than person and 
place, with occasional difficulty following simple commands as 
compared to an uncertain baseline. Infectious work up, including 
blood and urine cultures and CTA on admission with subsequent 
CXRs, was unrevealing. Noncontrast head CT was negative for 
acute intracranial process. Brain MRI for definitive exclusion 
of metastases could not be obtained due to claustrophobia/MRI 
aversion as above.  ABG on ___ without signs of CO2 retention. 
History of opiates making patient sleepy per HCP as possible 
contributing factor and therefore these were discontinued. 
Hepatic encephalopathy also on differential given metastatic 
lesions to liver and asterixis on exam.  AMS could also be ___ 
to severe depression. Mental status monitored and remained 
stable and patient at baseline per HCP on discharge.

(6) Shortness of breath: She presented with acute onset 
shortness of breath without frank hypoxia. CTA on admission was 
negative for pulmonary embolus, though (subsegmental clot could 
not be excluded definitively), pleural effusion, or focal 
infiltrate. EKG and cardiac enzymes were reassuring against 
acute coronary syndrome.  Low voltages on EKG were consistent 
with prior, hence limited suspicion for pericardial effusion. 
Shortness of breath resolved over the course of admission 
without dedicated treatment, with the exception of nebulizers 
and expectorants as needed.

(7) Leukocytosis: White blood cell count was elevated and peaked 
at 20.6, consistent with recent baseline, likely reflecting 
underlying malignancy. As noted above, infectious work up 
including CTA, urine and blood cultures, and CXRs, was 
unrevealing. She remained afebrile, with the exception of 
isolated transient fever to 100, with stable vital signs. 

(8 )Liver function test abnormalities: AST remained elevated ___ 
to ___, alkaline phosphatase 260s to 380s, and total bilirubin 
2.1 to 2.6, likely due to hepatic infiltration of malignancy. 
Right upper quadrant ultrasound was negative for cholecystitis 
or obstructive process. The possibility of superimposed 
intraabdominal process, such as infection, could not be excluded 
in the setting of abdominal pain with emesis as above, but she 
declined CT for further evaluation.

(9) Elevated lactate: Lactate was found to be 2.7-3.8 throughout 
admission despite copious IV fluids, likely reflecting 
compromised hepatic clearance in the setting of malignant 
infiltration. 

(10) Sinus tachycardia: She remained persistently tachycardic 
100s to 115s throughout admission in the setting of poor PO 
intake, but incompletely responsive to copious IV fluids. 
Tachycardia has been present since at least ___. Despite 
concurrent leukocytosis and elevated lactate, there was no clear 
infectious source, hence low suspicion for sepsis. Subsegmental 
pulmonary embolus could not be excluded on the basis of 
admission CTA, but shortness of breath was short lived, and she 
was never hypoxic. Hematocrit remained stable without signs of 
active bleeding, with the exception of transient hematemesis as 
above.

(11) Depression: She appeared depressed with flat affect and 
seeming anhedonia throughout admission, with underlying 
depression likely affecting motivation to seek diagnosis and 
treatment of known malignancy. She denied active suicidal 
ideation and frequently declined home sertraline, particularly 
prior to liver biopsy, believing that it was supposed to be held 
preprocedurally despite explanation to the contrary. She was 
seen by social work throughout admission.

(12) Normocytic anemia: Hematocrit remained stable and 
consistent with recent baseline at 27 to 33 throughout 
admission, seemingly due to anemia of chronic disease on the 
basis of preadmission labs. Vital signs remained stable, with 
the exception of persistent tachycardia, without signs of active 
bleeding apart from isolated blood streaked emesis as above.

(13) Coagulopathy: INR of 1.2 to 1.8 was felt to reflect 
synthetic dysfunction in the setting of hepatic infiltration of 
malignancy, as well as poor oral intake. There were no signs of 
active bleeding, with the exception of transient hematemesis as 
above.

Transitional Issues:
-Patient discharge home with home hospice
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB 
2. BuPROPion 150 mg PO DAILY 
3. Gabapentin 300 mg PO HS 
4. Sertraline 200 mg PO DAILY 
5. traZODONE 100 mg PO HS:PRN sleep 
6. Ondansetron 4 mg PO Q8H:PRN nausea 
7. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
8. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
please hold for sedation, RR<10 
9. Enoxaparin Sodium 40 mg SC DAILY 

 
Discharge Medications:
1. BuPROPion 150 mg PO DAILY 
2. Ondansetron 4 mg PO Q8H:PRN nausea 
3. TraMADOL (Ultram) 50 mg PO Q4H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*60 Tablet Refills:*0
4. Senna 1 TAB PO BID:PRN constipation 
RX *sennosides [___] 8.6 mg 1 tablet by mouth twice a 
day Disp #*60 Tablet Refills:*0
5. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule,delayed ___ by 
mouth Daily Disp #*30 Capsule Refills:*0
6. Hospital Bed
Bariatric Hospital Bed and
Therapeutic Mattress: BariMaxxII

7. Hospice Order
Please Screen and Admit to Hospice.
8. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
9. Docusate Sodium 100 mg PO BID 
10. Sertraline 200 mg PO DAILY 
11. traZODONE 100 mg PO HS:PRN sleep 
12. Polyethylene Glycol 17 g PO DAILY:PRN constipation 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Metastatic colon adenocarcinoma

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure taking part in your care during your admission 
to ___. As you know, you were 
admitted for shortness of breath, likely due to your underlying 
cancer, and there was no evidence of pneumonia or blood clot in 
the blood vessels of your lungs. Your shortness of breath 
resolved, but you were found to have weakness in your left thigh 
and abdominal pain. You declined imaging studies for further 
investigation of these findings. You underwent biopsy of your 
liver that revealed that the cancer known to affect your liver 
and lungs originated in your colon (large bowel). You were 
transferred to the oncology service, but unfortunately 
chemotherapy would do more harm for you than good.  After a long 
discussion with you and your health care proxy, it was decided 
that you will go home to be with your family and loved ones.  We 
will also set up hospice services for you so that they can help 
with any issues that arise while you are at home.  
 
Followup Instructions:
___